US06030991
4-Butoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 4-butoxybenzenesulfonyl chloride according to the procedures described in Example 30. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 98-100° C., yield 33%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-butoxybenzenesulfonyl chloride | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
product | 4-Butoxy-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 33% | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C14H17BrN2O4S
